US05475020
1-Methyl-3-pyrrolidineacetaldehyde
Dimethylsulphoxide (0.36 ml) was added dropwise to a solution of oxalyl chloride (0.33 ml) in dry dichloromethane (8 ml) at -72°, with stirring under nitrogen. The solution was stirred at -72° for 5 min then a solution of the compound of stage (i) (325 mg) in dry dichloromethane (5 ml) was added in a stream over 3 min. The solution was stirred at -72° for 15 min then triethylamine (1.75 ml) was added. The mixture was then warmed to room temperature over 1 h. The solvent and excess triethylamine were evaporated to give the crude title compound which was used immediately in the next step.

reactant | Dimethylsulphoxide | 0.36 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 0.33 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 1.75 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-Methyl-3-pyrrolidineacetaldehyde | CN1CC(CC1)CC=O | C7H13NO
